US07704995B2
3-Amino-6-[3-(hydroxymethyl)phenyl]pyrazine-2-carbonitrile (514.0 mg, 2.27 mmol) and 1,1-dimethylethyl (3S)-3-(hydrazinocarbonyl)piperidine-1-carboxylate (1.66g, 6.83 mmol) were combined together and heated to 180° C. for 1-2 h. The reaction mixture was poured into water (100 mL), and extracted with ethyl acetate (2×35 mL) then dried over anhydrous sodium sulfate and filteration, concentration and purified by MPLC to give 1,1-dimethylethyl (3R)-3-(5-{3-amino-6-[3-(hydroxymethyl)phenyl]pyrazin-2-yl }-1H-1,2,4-triazol-3-yl)piperidine-1-carboxylate. (655.0 mg, 64.2% yield): MS (EI) for C23H29N7O3: 452.29 (MH+).

reactant | 3-Amino-6-[3-(hydroxymethyl)phenyl]pyrazine-2-carbonitrile | 2.27 mmol, 514.0 mg | NC=1C(=NC(=CN1)C1=CC(=CC=C1)CO)C#N | C12H10N4O
reactant | 1,1-dimethylethyl (3S)-3-(hydrazinocarbonyl)piperidine-1-carboxylate | 6.83 mmol, 1.66g | N(N)C(=O)[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C11H21N3O3
solvent | water | 100 mL | O | H2O
product | 1,1-dimethylethyl (3R)-3-(5-{3-amino-6-[3-(hydroxymethyl)phenyl]pyrazin-2-yl }-1H-1,2,4-triazol-3-yl)piperidine-1-carboxylate | 64.2% yield | NC=1C(=NC(=CN1)C1=CC(=CC=C1)CO)C1=NC(=NN1)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C23H29N7O3
